US06809110B2
In analogy to the procedure described in example 1 d], [rac]-3-(4-hydroxy-3-methoxy-phenyl)-2-isopropoxy-propionic acid ethyl ester [prepared from isopropoxy-acetic acid ethyl ester (Tetrahedron (1982), 38(17), 2733-9) and 4-benzyloxy-3-methoxy-benzaldehyde in analogy to the procedures described in examples 54 a]to c)] was reacted with 2-[2-(3,5-dimethyl-phenyl)-5-methyl-thiazol-4-yl]-ethanol (prepared from [rac]-4-bromo-3-oxo-pentanoic acid methyl ester [PCT Int. Appl. (2001), WO 01/79202] and 3,5-dimethyl-thiobenzamide (from 3,5-dimethyl-benzonitrile and NaSH, NH4Cl in N,N-dimethylformamide) in analogy to the procedures described in examples 12 a] and 12 b]) in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-3-(4-{2-[2-(3,5-dimethyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3-methoxy-phenyl)-2-isopropoxy-propionic acid ethyl ester, which was farther saponified in analogy to the procedure described in example 4 e], to yield [rac]-3-(4-{2-[2-(3,5-dimethyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3-methoxy-phenyl)-2-isopropoxy-propionic acid as light yellow solid.

reactant | [rac]-3-(4-hydroxy-3-methoxy-phenyl)-2-isopropoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)OC)OC(C)C)=O | C15H22O5
reactant | isopropoxy-acetic acid ethyl ester | C(C)OC(COC(C)C)=O | C7H14O3
reactant | 4-benzyloxy-3-methoxy-benzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | 2-[2-(3,5-dimethyl-phenyl)-5-methyl-thiazol-4-yl]-ethanol | CC=1C=C(C=C(C1)C)C=1SC(=C(N1)CCO)C | C14H17NOS
reactant | [rac]-4-bromo-3-oxo-pentanoic acid methyl ester | COC(CC(C(C)Br)=O)=O | C6H9BrO3
reactant | 3,5-dimethyl-thiobenzamide | CC=1C=C(C(=S)N)C=C(C1)C | C9H11NS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-3-(4-{2-[2-(3,5-dimethyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3-methoxy-phenyl)-2-isopropoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(SC1C)C1=CC(=CC(=C1)C)C)OC)OC(C)C)=O | C29H37NO5S
